US05663053
Ethyl 8-(4-phenylimidazol-1-yl)octanoate
4-Phenylimidazole was treated with ethyl 8-bromooctanoate and potassium carbonate in butanone to give after work-up the title compound, m.p. 56°-57° C., Found: C, 72.8; H, 8.4; N, 9.0%; C19H26N2O2Requires: C, 72.6; H, 8.3;N, 8.9%

reactant | 4-Phenylimidazole | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | ethyl 8-bromooctanoate | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | Ethyl 8-(4-phenylimidazol-1-yl)octanoate | C1(=CC=CC=C1)C=1N=CN(C1)CCCCCCCC(=O)OCC | C19H26N2O2
